US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-fluorobenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 4-fluorobenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.91-2.04 (m, 4H), 2.12 (s, 1H), 2.31 (d, J=14 Hz, 2H), 2.38 (s, 1H), 3.49 (s, 1H), 3.59 (s, 3H), 3.73 (s, 1H), 3.77-3.89 (m, 1H), 4.38 (s, 1H), 7.20 (t, J=9 Hz, 2H), 7.90 (dd, J=9, 5 Hz, 2H); MS (APCI/NH3) m/z 275 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-fluorobenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=CC=C(C=C2)F)=O | C16H19FN2O
